Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
self-inflicted knife wound to right neck
 
Major Surgical or Invasive Procedure:
R neck exploration and ligation of right external jugular vein

 
History of Present Illness:
___ with history of TBI as child and unspecified seizure 
disorder, currently not on medication, who was BIBA after a 
suicide attempt via self-inflicted knife wound to right neck.  
Pt initially attempted to hang himself but after a long standoff 
with police, cut his neck with a box cutter.
 
Past Medical History:
TBI
Unspecified seizure disorder
 
Social History:
___
Family History:
No known family psych hx
 
Physical Exam:
Vitals: 98.4 108/69 109 18 99%RA
Gen app: comfortable, NAD. Handcuffed to bed
HEENT:  EOMI, PERRL.  Oral mucosa pink and moist
Neck: Large laceration to right neck closed with surgical glue.  
No surrounding erythema or fluctuance. 
CV: RRR. no m/r/g
Lungs: CTA
GI: Bowel sounds present throughout.  Soft, NT, ND
Extrem: no edema.  Warm and well perfused.
Psych: Awake, alert, fair grooming/hygiene, good eye contact, 
restless,
overall calm, cooperative, speech normal tone/increased rate and
amount, mood "stressed" with constricted range, dysphoric and
dysthymic in quality, variable in intensity, thought process
tangential with flight of ideas, thought content with themes of
paranoia, persecutory delusions about Catholicism and hypnosis,
being controlled and others being controlled, +ideas of 
reference
(hearing ambient noise and others talking, felt to be part of a
larger conspiracy of control), associations loose at times, no
perceptual disturbances evident, no suicidal or homicidal
thoughts at this time, insight/judgment impaired/impaired
Cognitively, oriented to person, place, time, situation, mild
inattention (able to alphabetize letters in EARTH correctly and
quickly), language intact comprehension, repetition, naming, ___
registration, ___ spontaneous delayed recall, got 1 item with
multiple choice list 

 
Pertinent Results:
___ 07:02AM BLOOD WBC-9.0 RBC-3.14* Hgb-9.5* Hct-29.0* 
MCV-92 MCH-30.3 MCHC-32.8 RDW-13.2 RDWSD-44.9 Plt ___
___ 07:02AM BLOOD Plt ___
___ 07:02AM BLOOD Glucose-98 UreaN-6 Creat-0.6 Na-143 K-3.8 
Cl-108 HCO3-26 AnGap-9*
___ 07:02AM BLOOD Calcium-8.6 Phos-2.9 Mg-2.0
___ 03:53PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Pt taken emergently to OR for exploration of right neck.  The R 
external jugular vein was found to be injured so was transected 
and ligated.  The wound was subsequently closed with skin glue.  
The patient was hemodynamically stable after the procedure and 
showed no signs of respiratory compromise or expanding neck 
hematoma.  He was evaluated by the psychiatry service who felt 
he was acutely psychotic and required inpatient psychiatric 
care.  He was kept on a 1:1 sitter while hospitalized.  He was 
started on nicotine replacement with 21mg patch daily and also 
started on Ativan 1mg PO TID PRN for anxiety.  
 
Medications on Admission:
CBD oil
 
Discharge Medications:
1.  Acetaminophen 500 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*30 Capsule Refills:*0 
3.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
RX *oxycodone [Oxaydo] 5 mg 1 tablet(s) by mouth four times a 
day Disp #*6 Tablet Refills:*0 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
1. Self-inflicted knife wound to right neck with injury to 
external jugular vein
2. Psychosis

 
Discharge Condition:
Mental Status: paranoid
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You came to the hospital for a self-inflicted stab wound to your 
neck.  You were taken to the operating room to stop the 
bleeding.  You were then evaluated by the psychiatry service.  
You are being transferred to an inpatient psychiatric facility 
for further treatment. 

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.

*New or worsening cough, shortness of breath, or wheeze.

*If you are vomiting and cannot keep down fluids or your 
medications.

*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.

*You see blood or dark/black material when you vomit or have a 
bowel movement.

*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.

*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.

*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.

*Any change in your symptoms, or any new symptoms that concern 
you.

 

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.
 

Avoid driving or operating heavy machinery while taking pain 
medications.

 

Incision Care:

*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.

*Avoid swimming and baths for at least 7 days.

*You may shower, and wash surgical incisions with a mild soap 
and warm water. Gently pat the area dry.

 
Followup Instructions:
___